.subckt MAX924   1 2 3 4  97
*
  f101    3  9 v1 1
  iee100   7  400 dc 100.0E-6
  q101    9  20  7 qin
  q2    8  21  7 qin
  q3    9  8  399 qmo
  q4    8  8  399 qmi
  VMB 400 4 0V
  VPB 399 3 0V
***================
RIN1 2 23 2K
RIN2 1 25 2K
***
DCM2 70 3 DP
DCM1 4 24 DP
VCM1 70 24 1.3V
DCM3 4 26 DP
VCM2 71 26 1.3V
DCM4 71 3 DP
***
IPSUP 0 3 2.5523948MA
INSUP 0 4 -2.5523948MA
***
VNOHYST 23 20 0V
*EHYST 23 20 POLY(1) 0 60 0 1
VS2 21 25 0V
*.model qin NPN(Is=800.0E-18 Bf=2.000E3)
.model qin NPN(Is=800.0E-18 Bf=5.000E6)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=6.662E-6)
.MODEL PMOS PMOS 
*(VTO=-1.7 KP=1.8E-3)
  e1   10  4  3  9  2
  v1   10 11 dc 0
  q5    5 11  44 qoc
  vshift 44 4 0v
  R55 3 5 10K
  DP5 5 3 DP
  DP6 4 5 DP
*================
*EH 3 98 3 4 0.5
VVIRTUAL 98 0 0V
F5 3 38 VA8 1
D9 40 38 DX
D10 38 3 DX
VA7 3 40 0
F6 3  4 VA7 1
G12 98 32 5 0 7.04E-3
R15 98 32 142
D3 36 41 DX
D4 42 37 DX
V5 34 36 -.63
V4 37 34 -.65
****V4,V5 SET ISC
R16 41 35 7
R17 42 35 145
E11 3 33 3 32 1
VA8 33 34 0V
L 35 97 10NH
*========================
.model qoc NPN(Is=800.0E-18 Bf=2.069E3 Cjc=1E-15 Tf=25.53E-9 Tr=6.983E-6)
  dp    4  3 DX
  rp    3  4 2.041E3
.MODEL DX  D(Is=800.0E-18)
.MODEL DP D(N=0.001)
*=======================
***== MODELS USED ==***
.MODEL DX2 D(IS=1E-15 n=0.001) 
*.MODEL DX D(IS=1E-15) 
.ENDS MAX924
